US08937195B2
Under a nitrogen atmosphere, to a diethyl ether solution (106 mL) of 1-bromo-3,5-di-tert-butylbenzene (10.60 g, 39.37 mmol), a 1.65 M hexane solution of n-butyllithium (23.86 mL, 39.37 mmol) was added dropwise at −78° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature for 3 hours. The resultant mixture was added dropwise to a diethyl ether solution (106 mL) of trichlorophenylsilane (24.99 g, 118.12 mmol) at −78° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature. After completion of the reaction, the solvent was removed under reduced pressure. Thereafter, hexane wad added to the residue, and insoluble materials were removed by filtration. The solvent was removed from the filtrate under reduced pressure. Trichlorophenylsilane was removed by heating to 100° C. under reduced pressure to obtain dichloro(3,5-di-tert-butylphenyl)(phenyl)silane (11.77 g, yield 81.8%).

reactant | 1-bromo-3,5-di-tert-butylbenzene | 39.37 mmol, 10.60 g | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
reactant | n-butyllithium | 39.37 mmol, 23.86 mL | C(CCC)[Li]
reactant | trichlorophenylsilane | 118.12 mmol, 24.99 g | Cl[Si](C1=CC=CC=C1)(Cl)Cl | C6H5Cl3Si
solvent | diethyl ether | 106 mL | C(C)OCC | C4H10O
solvent | hexane | 1.65 M | CCCCCC | C6H14
solvent | diethyl ether | 106 mL | C(C)OCC | C4H10O
product | dichloro(3,5-di-tert-butylphenyl)(phenyl)silane | 11.77 g, yield 81.8% | Cl[Si](C1=CC=CC=C1)(C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)Cl | C20H26Cl2Si
